US06670372B2
(2R)-2-[(3—Nitroquinolin-4-yl)amino]butan-1-ol (238 g), isopropanol (5 L) and catalyst (23.8 g of 5% platinum on carbon) were combined in a stainless steel vessel and hydrogenated at 50 psi (3.5 Kg/cm2) for 16 hours. The reaction mixture was filtered through a layer of Celite® filter agent to remove the catalyst. The filtrate was concentrated under reduced pressure to provide 208.3 g of (2R)-2-[(3-aminoquinolin-4-yl)amino]butan-1-ol as an amber oil. The reaction was run a second time on the same scale.

reactant | (2R)-2-[(3—Nitroquinolin-4-yl)amino]butan-1-ol | 238 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1N[C@@H](CO)CC | C13H15N3O3
catalyst | platinum on carbon | 23.8 g | [Pt] | Pt
solvent | isopropanol | 5 L | C(C)(C)O | C3H8O
product | (2R)-2-[(3-aminoquinolin-4-yl)amino]butan-1-ol | 208.3 g | NC=1C=NC2=CC=CC=C2C1N[C@@H](CO)CC | C13H17N3O
